US07994324B2
A mixture of the above described 4-methoxy-benzofuran-3-one oxime (6.15 g, 34.3 mmol) in EtOH (500 ml) with 10% Pd/C (6.15 g) was hydrogenated at 23° C. and atmospheric pressure for 18 h. Filtered the catalyst off, washed with EtOH, evaporated the filtrate totally and dried in high vacuum to give (RS)-4-methoxy-2,3-dihydro-benzofuran-3-ylamine as a light yellow oil (3.65 g, 64%); MS: m/e=166.2 (M+H|).

reactant | 4-methoxy-benzofuran-3-one oxime | 34.3 mmol, 6.15 g | COC1=CC=CC2=C1C(CO2)=NO | C9H9NO3
solvent | EtOH | 500 ml | CCO | C2H6O
catalyst | Pd/C | 6.15 g | [Pd] | Pd
product | (RS)-4-methoxy-2,3-dihydro-benzofuran-3-ylamine | 3.65 g, 64% | COC1=CC=CC2=C1C(CO2)N | C9H11NO2
